US07326791B2
N-[(1-acetylpiperidin-3-yl)-(5-chloro-1H-benzimidazol-2-yl)methyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
90 mg (0.16 mmol) of rac.-N-[(5-chloro-1H-benzimidazol-2-yl)-(piperidin-3-yl)methyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide is dissolved in 3 mL of tetrahydrofuran and, after the addition of 8.4 mg (0.17 mmol) of sodium hydride (50% solution in oil), stirred for one hour at 40° C. Then the mixture is cooled to ambient temperature and stirred for a further 16 hours with 11.4 μL (0.16 mmol) of acetyl chloride. Then water is added and the mixture is extracted with dichloromethane. The combined organic extracts are dried over sodium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel, eluting with dichloromethane/ethanol (100:0 and 90:10). The 4 possible stereoisomers were separated into one pair of enantiomers with a high Rf value (Example 189) and one pair of enantiomers with a low Rf value (Example 190). Yield: 30 mg (36% of theory); Rf value: 0.37 (silica gel; dichloromethane/ethanol=9:1); C28H32ClN5O3 (522.05); mass spectrum: (M+H)+=522/524 (chlorine isotope).

reactant | rac.-N-[(5-chloro-1H-benzimidazol-2-yl)-(piperidin-3-yl)methyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | 0.16 mmol, 90 mg | ClC1=CC2=C(NC(=N2)C(NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C2CNCCC2)C=C1 | C26H30ClN5O2
reactant | sodium hydride | 0.17 mmol, 8.4 mg | [H-].[Na+]
reactant | acetyl chloride | 0.16 mmol, 11.4 μL | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-[(1-acetylpiperidin-3-yl)-(5-chloro-1H-benzimidazol-2-yl)methyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | C(C)(=O)N1CC(CCC1)C(NC(C1=CC(=C(C=C1)C(=O)N1CCCC1)C)=O)C1=NC2=C(N1)C=CC(=C2)Cl | C28H32ClN5O3
